US07148226B2
Preparation of Compound 6-chloro[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde
A mixture of (6-chloro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methanol (9.86 g, 53.4 mmol), TEMPO (626 mg, 4.01 mmol), iodobenzene diacetate (18.9 g, 58.76 mmol) in CH2Cl2 (75 mL) was stirred at room temperature for 2 hours. Once the reaction was deemed complete, methyl-tert-butyl ether (50 mL) was added slowly to precipitate the product. as a while solid (8.72 g, 90%). 1H NMR (300 MHz, CDCl3) δ: 8.93 (d, J=2.45 Hz, 1 H), 8.99 (d, J=2.64 Hz, 1 H), 10.25 (s, 1 H). MS (APCI): 183.0, 185.0 (M+H+).

reactant | (6-chloro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methanol | 53.4 mmol, 9.86 g | ClC=1C=NC=2N(C1)N=C(N2)CO | C6H5ClN4O
reactant | TEMPO | 4.01 mmol, 626 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | iodobenzene diacetate | 58.76 mmol, 18.9 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | methyl-tert-butyl ether | 50 mL | COC(C)(C)C | C5H12O
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | 6-chloro[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | ClC=1C=NC=2N(C1)N=C(N2)C=O | C6H3ClN4O
